US06780883B2
A slurry of 5% Pd/C (2.5 g) in glacial acetic acid (30 mL) was added to a solution of 3-(diethylamino)-4′-nitro-propiophenone (14.33 g, 50 mmol) in glacial acetic acid (150 mL). The mixture was shaken on a Parr shaker under hydrogen pressure for about 20 hours. The catalyst was filtered, and the solvent was evaporated to dryness. The resulting amber liquid was dissolved in ether and washed twice with 2N NaOH (150 mL). The ether layer was dried and evaporated to give N,N-diethyl-3-(p-nitrophenyl)-propylamine as an oil.

reactant | 3-(diethylamino)-4′-nitro-propiophenone | 50 mmol, 14.33 g | C(C)N(CCC(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC | C13H18N2O3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | N,N-diethyl-3-(p-nitrophenyl)-propylamine | C(C)N(CC)CCCC1=CC=C(C=C1)[N+](=O)[O-] | C13H20N2O2
